Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ms ___ / Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
venous stasis ulcer
 
Major Surgical or Invasive Procedure:
Split-thickness skin graft left thigh to left ankle. 

 
Past Medical History:
- hypertension
- hypercholesterolemia
- DVTs, ___ years ago (post-partum) and ___, on coumadin for ___ 
years, stopped about ___ years ago, PCP started hypercoagulable 
___ after learning patient d/c coumadin but this was negative
- diverticulosis
- skin graft for unhealed left leg ulcer ___ (followed for ___ 
yr)
- fibroids
- s/p TAH/BSO ___ years ago for bleeding fibroids in the setting 
of anticoagulation
- hepBcAb pos, hepBsAb and Ag neg in ___

 
Social History:
___
Family History:
- HTN in both parents
- mother died age ___ of ESRD (on HD) from HTN
- father died age ___ of lung cancer
- sister died in ___ of leukemia
- no known h/o of hypercoagulable states, DM
- two brothers, two sisters who are healthy
 
Physical Exam:
GENERAL:  Well-appearing overweight ___ female in no
apparent distress.
HEENT:  EOMI/PERRL.  OP clear with moist mucous membranes.
NECK:  No cervical lymphadenopathy.  No thyromegaly.
LUNGS:  Clear to auscultation bilaterally.
___:  Regular rate and rhythm.  Normal S1/S2.  No murmurs
auscultated.
ABDOMEN:  Soft, nontender/nondistended.  No hepatomegaly. 
well-healed low transverse abdominal scar.  
EXT:  Left lower extremity wrapped in Ace bandage.  Tender to
palpation anywhere over the bandage.  No lower extremity edema
noted.  Right knee with palpable metal implant.  Calves were
atrophied bilaterally.
NEUROLOGIC:  2+ biceps and patellar reflexes.

 
Pertinent Results:
___ 07:55AM BLOOD 

WBC-8.0 RBC-4.16* Hgb-12.9 Hct-39.6 MCV-95 MCH-31.0 MCHC-32.6 
RDW-13.4 Plt ___

___ 07:55AM BLOOD 

Neuts-48.3* Lymphs-42.9* Monos-4.0 Eos-4.3* Baso-0.5

___ 07:55AM BLOOD 

Glucose-99 UreaN-11 Creat-0.8 Na-140 K-4.1 Cl-106 HCO3-20* 
AnGap-18

___ 12:15AM 

URINE Color-Straw Appear-Clear Sp ___
URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
URINE Hours-RANDOM Creat-31 Na-80
URINE Osmolal-288

___ 12:15 am URINE

URINE CULTURE (Final ___:    NO GROWTH. 

___ 3:05 pm

TISSUE      LEFT ANKLE. 

GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 

4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND 
CHAINS. 
2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

STAPH AUREUS COAG +.    SPARSE GROWTH. 

                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

 
 

 
Brief Hospital Course:
Mrs. ___ was admitted on ___ with Left venous stasis 
ulcer. She agreed to have an elective surgery. Pre-operatively, 
she was consented. A CXR, EKG, UA, CBC, Electrolytes, T/S - were 
obtained,  all other preperations were made.
 
It was decided that she would undergo a Split-thickness skin 
graft left thigh to left
ankle. 

She was prepped, and brought down to the operating room for 
surgery. Intra-operatively, she was closely monitored and 
remained hemodynamically stable. She tolerated the procedure 
well without any difficulty or complication.

VAC dressing placed
 
Post-operatively, she was extubated and transferred to the PACU 
for further stabilization and monitoring. 

She was then transferred to the VICU for further recovery. While 
in the VICU she recieved monitered care. When stable she was 
delined. Her diet was advanced. When she was stabalized from the 
acute setting of post operative care, she was transfered to 
floor status.

She remained on bedrext x 5 days. The VAC was taken down. Graft 
site looks good. Pt antibiotics tailored to her OR 
sensitivities.
 
On the floor, she remained hemodynamically stable with his pain 
controlled. She progressed with physical therapy to improve her 
strength and mobility. She continues to make steady progress 
without any incidents. She was discharged home in stable 
condition on PO AB.
 
Medications on Admission:
amlodipine 5 qd, atenolol 50 bid, gabapentin 300 tid, lisinopril 
40 qd, ibuprofen prn
 
Discharge Medications:
1. DiCLOXacillin 250 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) for 2 weeks.
Disp:*56 Capsule(s)* Refills:*0*
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
5. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
7. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
for 10 days: prn.
Disp:*40 Tablet(s)* Refills:*0*
8. Cerovite Silver     Tablet Sig: One (1) Tablet PO once a day. 
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Venous stasis ulcer

HTN

 
Discharge Condition:
Stable

 
Discharge Instructions:
Postoperative Care:

Do not expose recipient site to prolonged sunlight
 
Follow instructions given for bandaging the grafted area to 
provide it with appropriate support during the healing process, 
and to prevent contractures even after healing is complete 

Inspect site for healing and good circulation, as shown by 
healthy pink coloration
 
Keep the recipient site clean and dry

Outcome

A successful skin graft will result in transplanted skin 
adhering and growing into the recipient area. Cosmetic results 
may vary, based on factors such as type of skin graft used, and 
area of recipient site.

Call Your Doctor ___ Any of the Following Occurs

Cough, shortness of breath, chest pain, or severe nausea or 
vomiting 
Headache, muscle aches, dizziness, or general ill feeling 

Redness, swelling, increasing pain, excessive bleeding, or 
discharge from the incision site 

Signs of infection, including fever and chills
 
Followup Instructions:
___